* EPC2361 low-side DPT; upper GaN held off
Vdc supply 0 {Vin}
Rcharge supply bus {Rcharge}
Rcap bus cap_esl {ESR}
Lcap cap_esl cap {max(ESL,1e-15)} Rser=0
Cin cap 0 {Cin}
Llayout bus rail {max(Lloop*LplusFrac,1e-15)} Rser={Rloop*RplusFrac}
Lload rail sw {Lload} Rser={Rload}
XHS gh rail sh EPC2361
Lsh sh hs_ref {max(CSI,1e-15)} Rser={RCSI}
Vsense sw drain 0
XDUT gl drain sl EPC2361
Lsl sl pgnd {max(CSI,1e-15)} Rser={RCSI}
Vhs offhs hret {Voff}
Rhs offhs hdrive {Rg_HS}
Vcmd cmd 0 PWL(0 0 {Tdelay} 0 {Tdelay+Tr} 5 {A} 5 {A+Tf} 0 {B} 0 {B+Tr} 5 {C} 5 {C+Tf} 0 {Stop} 0)
Von on lret {Von}
Voff off lret {Voff}
Sup on pu cmd 0 DRV_ON
Rup pu ldrive {Rg_on+RGD_PU}
Sdown off pd cmd 0 DRV_OFF
Rdown pd ldrive {Rg_off+RGD_PD}
Lmid hs_ref sw {max(Lloop*(1-LplusFrac-LreturnFrac),1e-15)} Rser={Rloop*max(1-RplusFrac-RreturnFrac,0)}
Lreturn pgnd 0 {max(Lloop*LreturnFrac,1e-15)} Rser={Rloop*RreturnFrac}
LgateLS ldrive gl {max(LgLS,1e-15)} Rser={RgTraceLS}
LgateReturnLS lret pgnd {max(LgrLS,1e-15)} Rser={RgrLS}
LgateHS hdrive gh {max(LgHS,1e-15)} Rser={RgTraceHS}
LgateReturnHS hret hs_ref {max(LgrHS,1e-15)} Rser={RgrHS}
.param Vin=75 Itest=45 Lload=2e-05 Rload=0.02 Tj=100 AutoT1=1 Tcharge=6.667e-06 Fsw=100000 Vlimit=100
.param Tdelay=1e-06 Toff=1e-06 Tsecond=1e-06 Tr=2e-09 Tf=2e-09 Ttail=2e-06 Maxstep=1e-09 Wpre=2e-08 Wpost=1e-07
.param Cin=0.0001 ESR=0.005 ESL=1e-09 Rcharge=1 Cdecap=0 ESRdecap=0.005 ESLdecap=2e-10
.param Von=5 Voff=-5 Rg_on=2 Rg_off=0.5 RGD_PU=0.7 RGD_PD=0.4 Rg_HS=0.9
.param Refined=1 Lloop=2e-09 Rloop=0.005 CSI=1e-10 RCSI=0.0001 LplusFrac=0.4 LreturnFrac=0.4 RplusFrac=0.4 RreturnFrac=0.4
.param LgLS=5e-10 LgrLS=5e-10 RgTraceLS=0.02 RgrLS=0.02 LgHS=5e-10 LgrHS=5e-10 RgTraceHS=0.02 RgrHS=0.02
.param T1=if(AutoT1,Itest*Lload/Vin,Tcharge)
.param A=Tdelay+Tr+T1 B=A+Tf+Toff C=B+Tr+Tsecond Stop=C+Tf+Ttail
.model DRV_ON SW(Ron=1m Roff=1G Vt=2.5 Vh=0)
.model DRV_OFF SW(Ron=1G Roff=1m Vt=2.5 Vh=0)
.include ".\EPCGaNLibrary.lib"
.temp {Tj}
.tran 0 {Stop} 0 {Maxstep}
.options plotwinsize=0
.save V(cmd) V(gl,sl) V(gh,sh) V(drain,sl) V(bus) V(rail) V(sw) I(Lload) I(Vsense) I(Cin)
.meas tran I_first_off FIND I(Lload) AT={A}
.meas tran I_second_on FIND I(Lload) AT={B}
.meas tran Vds_peak MAX V(drain,sl)
.meas tran Vds_HS_peak MAX V(rail,sh)
.meas tran Vds_HS_min MIN V(rail,sh)
.meas tran Vgs_LS_peak MAX V(gl,sl)
.meas tran Vgs_LS_min MIN V(gl,sl)
.meas tran Rail_peak MAX V(rail)
.meas tran Vgs_HS_peak MAX V(gh,sh)
.meas tran Vgs_HS_min MIN V(gh,sh)
.meas tran Vbus_min MIN V(bus)
.meas tran Eoff1_window INTEG V(drain,sl)*I(Vsense) FROM={A-Wpre} TO={A+Wpost}
.meas tran Eon2_window INTEG V(drain,sl)*I(Vsense) FROM={B-Wpre} TO={B+Wpost}
.meas tran Eoff2_window INTEG V(drain,sl)*I(Vsense) FROM={C-Wpre} TO={C+Wpost}
.meas tran Eoff1_uJ PARAM Eoff1_window*1e6
.meas tran Eon2_uJ PARAM Eon2_window*1e6
.meas tran Eoff2_uJ PARAM Eoff2_window*1e6
.meas tran Psw_DUT_W PARAM (Eon2_window+Eoff1_window)*Fsw
.meas tran Psw_second_pair_W PARAM (Eon2_window+Eoff2_window)*Fsw
.save V(pgnd) V(hs_ref) V(lret) V(hret) I(Llayout) I(Lmid) I(Lreturn) I(LgateLS) I(LgateHS)
.meas tran Return_peak MAX V(pgnd)
.meas tran Return_min MIN V(pgnd)
.end
